US07288544B2
3) Synthesis of 4-[4-(3-chlorophenyl)-2,6-dimethyl-5-(3-phenylpropylcarbamoyl) pyridine-3-carbonyl] piperazine-1-carboxylic acid-t-butyl ester:
1.13 g (2.37 mmol) of 4-[5-carboxy-4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3-carbonyl] piperazine-1-carboxylic acid-t-butyl ester, 0.51 ml (3.59 mmol) of 3-phenylpropylamine, 548 mg (2.86 mmol) of WSC hydrochloride and 21 mg (0.17 mmol) of 4-dimethylaminopyridine were stirred in 10 ml of dichloromethane at room temperature overnight. After adding 25 ml of water and 25 ml of 1 N hydrochloric acid, the reaction mixture was extracted with dichloromethane. The organic layer was washed with saturated aqueous sodium hydrogencarbonate solution and dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (chloroform/methanol=300/1) to obtain the title compound.

reactant | 4-[5-carboxy-4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3-carbonyl] piperazine-1-carboxylic acid-t-butyl ester | 2.37 mmol, 1.13 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)Cl)C(=O)O)C)C | C24H30ClN3O5
reactant | 3-phenylpropylamine | 3.59 mmol, 0.51 ml | C1(=CC=CC=C1)CCCN | C9H13N
reactant | WSC hydrochloride | 2.86 mmol, 548 mg | CCN=C=NCCCN(C)C.Cl
reactant | hydrochloric acid | 1 N, 25 ml | Cl | ClH
catalyst | 4-dimethylaminopyridine | 0.17 mmol, 21 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | 25 ml | O | H2O
product | 4-[4-(3-chlorophenyl)-2,6-dimethyl-5-(3-phenylpropylcarbamoyl) pyridine-3-carbonyl] piperazine-1-carboxylic acid-t-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C=1C(=NC(=C(C1C1=CC(=CC=C1)Cl)C(NCCCC1=CC=CC=C1)=O)C)C | C33H39ClN4O4
